US06855710B2
(Z)-3-[1-(3-cyanophenylamino)-1-phenyl-methylidene]-5-nitro-2-indolinone
2 g (5.2 mmol) of 1-benzoyl-3-(1-hydroxy-1-phenyl-methylidene)-5-nitro-2-indolinone and 1.8 g (16 mmol) of 3-aminobenzonitrile are stirred in DMF for 70 hours at ambient temperature. Then the reaction solution is extracted with ether, the organic phase is washed with water and dried over sodium sulphate. After removal of the solvent in vacuo the residue is chromatographed on silica gel (dichloromethane/methanol=50:1).

reactant | 1-benzoyl-3-(1-hydroxy-1-phenyl-methylidene)-5-nitro-2-indolinone | 5.2 mmol, 2 g | C(C1=CC=CC=C1)(=O)N1C(C(C2=CC(=CC=C12)[N+](=O)[O-])=C(C1=CC=CC=C1)O)=O | C22H14N2O5
reactant | 3-aminobenzonitrile | 16 mmol, 1.8 g | NC=1C=C(C#N)C=CC1 | C7H6N2
solvent | DMF | CN(C)C=O | C3H7NO
product | (Z)-3-[1-(3-cyanophenylamino)-1-phenyl-methylidene]-5-nitro-2-indolinone | C(#N)C=1C=C(C=CC1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C22H14N4O3
